US06989372B1
2.1. N-(N,S-Bisacetyl-L-cysteinyl)-S-acetylcysteamine I-176)
A solution comprising 83 mg (0.31 mmol) of I-152 in 1 ml of pyridine is stirred at 0° C. and 90 μm (0.95 mmol) of acetic anhydride are added. The reaction mixture is maintained at 0° C. for 15 min, then it is allowed to return to ambient temperature and stirring is continued for 12 h. The solution is subsequently evaporated to dryness under vacuum and the residue formed is taken up in 30 ml of CH2Cl2. The organic phase is washed with water (3×20 ml), dried over sodium sulfate, filtered and evaporated to dryness under vacuum. The residual gum is crystallized from AcOEt and provides 73 mg (Yd=75%) of the expected compound in the form of colorless platelets. Rf (CH2Cl2/MeOH, 9.5/0.5): 0.46. M.p.=153-154° C. [α]D20=−33.7° (c 0.8, CHCl3).

reactant | N-(N-Acetyl-L-cysteinyl)-S-Acetylcysteamine | 0.31 mmol, 83 mg | C(C)(=O)N[C@@H](CS)C(=O)NCCSC(C)=O | C9H16N2O3S2
reactant | acetic anhydride | 0.95 mmol | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | N-(N,S-Bisacetyl-L-cysteinyl)-S-acetylcysteamine | C(C)(=O)N[C@@H](CSC(C)=O)C(=O)NCCSC(C)=O | C11H18N2O4S2
